US08791132B2
To a solution of 3,6-dimethyl-6,7,8,9-tetrahydro-5H-pyrrolo[2,3-b:4,5-c′]dipyridine (201 mg, 1.0 mmol) in DMF (1 mL) was added a suspension of NaH (128.0 mg, 3.24 mmol) in DMF (1 mL). After stirring for 5 min at RT, a solution of 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate (873 mg, 3.0 mmol) in DMF (1 mL) was added dropwise into the reaction mixture and stirring continued for another 3 h. The progress of reaction was monitored by TLC and NMR. The reaction mixture was diluted with water (20 mL) and extracted with EtOAc (3×25 mL). The organic layer was washed with water (3×20 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by silica gel flash chromatography and 10% MeOH-DCM to yield 3,6-dimethyl-9-(2-(6-methylpyridin-3-yl)ethyl)-6,7,8,9-tetrahydro-5H-pyrrolo[2,3-b:4,5-c′]dipyridine (190 mg). 1H NMR (CDCl3, TFA salt) δ (ppm): 8.2 (s, 1H), 8.04 (s, 1H), 7.43 (s, 1H), 7.18 (d, 1H), 7.0 (d, 1H), 4.3 (t, 2H), 3.6 (s, 2H), 3.0 (t, 2H), 2.7 (t, 2H), 2.5 (s, 8H), 2.4 (s, 3H).

reactant | 3,6-dimethyl-6,7,8,9-tetrahydro-5H-pyrrolo[2,3-b:4,5-c′]dipyridine | 1.0 mmol, 201 mg | CC=1C=C2C(=NC1)NC1=C2CN(CC1)C | C12H15N3
reactant | NaH | 3.24 mmol, 128.0 mg | [H-].[Na+]
reactant | 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate | 3.0 mmol, 873 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=NC(=CC1)C | C15H17NO3S
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 3,6-dimethyl-9-(2-(6-methylpyridin-3-yl)ethyl)-6,7,8,9-tetrahydro-5H-pyrrolo[2,3-b:4,5-c′]dipyridine | 190 mg | CC=1C=C2C(=NC1)N(C1=C2CN(CC1)C)CCC=1C=NC(=CC1)C | C20H24N4
